US04874781
E. 2-(4-chlorophenyl)-3-(trifluoromethyl)-but-3-enoic acid
15% Aqueous sodium hydroxide (3 ml) is added to a stirred solution of ethyl-2-(4-chlorophenyl)-3(trifluoromethyl)-but-3-enoate (0.3 g) and the mixture refluxed for 3 hours, cooled to room temperature, diluted with water (10 ml) and extracted with ether. The aqueous phase is acidified with 2N aqueous hydrochloric acid extracted with ether (×3), dried and the solvent evaporated under reduced pressure. Yield 0.25 g nD 1.4898.

reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | ethyl-2-(4-chlorophenyl)-3(trifluoromethyl)-but-3-enoate | 0.3 g | C(C)OC(C(C(=C)C(F)(F)F)C1=CC=C(C=C1)Cl)=O | C13H12ClF3O2
solvent | water | 10 ml | O | H2O
product | 2-(4-chlorophenyl)-3-(trifluoromethyl)-but-3-enoic acid | ClC1=CC=C(C=C1)C(C(=O)O)C(=C)C(F)(F)F | C11H8ClF3O2
